US09029536B2
A) 2-(4-Bromophenoxy)-1H-benzimidazole
A mixture of 2-chloro-1H-benzo[d]imidazole (10 g), 4-bromophenol (56.7 g) and TEA (45.5 mL) was stirred at 150° C. overnight. The mixture was quenched with water at room temperature and extracted with AcOEt. The extract was washed with 1 M NaOH aqueous solution, dried over Na2SO4, and concentrated under reduced pressure. The precipitate was crystallized from AcOEt/hexane to give the title compound (11.9 g).

reactant | 2-chloro-1H-benzo[d]imidazole | 10 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-bromophenol | 56.7 g | BrC1=CC=C(C=C1)O | C6H5BrO
product | 2-(4-Bromophenoxy)-1H-benzimidazole | 11.9 g | BrC1=CC=C(OC2=NC3=C(N2)C=CC=C3)C=C1 | C13H9BrN2O
